US07615562B2
(4-Naphthalen-2-yl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 2-naphthylboronic acid according to Method C (Example 178). Yield: 142 mg (70%)

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | 2-naphthylboronic acid | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | (4-Naphthalen-2-yl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | C1=C(C=CC2=CC=CC=C12)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C23H28N4
